US04426386
Example E8. N-n-Propyl-3-(3-benzyloxyphenyl)piperidine hydrochloride (Method c)
A mixture of N-n-propyl-3-(3-hydroxyphenyl)piperidine hydrobromide (1.0 g, 0.0033 mol), potassium t-butoxide (1.0 g, 0.009 mol) and benzylchloride (1.0 g, 0.009 mol) in t-butanol (25 ml) was refluxed for 1 h. Water was added and the mixture extracted with ether. The organic phase was dried with Na2SO4 and evaporated to dryness giving a pale yellow oily residue. The residue was chromatographed through a silica gel column with methanol as eluant. The pertinent fractions were collected and evaporated to dryness. The oily residue was dissolved in ether and HCl-saturated ether was added, giving white crystals. Evaporation and treatment of the residue with acetone gave 0.60 g (52%) of the desired product as white crystals, mp. 171° C.

reactant | N-n-propyl-3-(3-hydroxyphenyl)piperidine hydrobromide | 0.0033 mol, 1.0 g | Br.C(CC)N1CC(CCC1)C1=CC(=CC=C1)O
reactant | potassium t-butoxide | 0.009 mol, 1.0 g | CC(C)([O-])C.[K+]
reactant | benzylchloride | 0.009 mol, 1.0 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | Water | O | H2O
solvent | t-butanol | 25 ml | C(C)(C)(C)O | C4H10O
product | N-n-Propyl-3-(3-benzyloxyphenyl)piperidine hydrochloride | 0.60 g, 52% | Cl.C(CC)N1CC(CCC1)C1=CC(=CC=C1)OCC1=CC=CC=C1 | InChI=1S/C21H27NO.ClH/c1-2-13-22-14-7-11-20(16-22)19-10-6-12-21(15-19)23-17-18-8-4-3-5-9-18;/h3-6,8-10,12,15,20H,2,7,11,13-14,16-17H2,1H3;1H
